US07541341B2
To a solution of 2-[4-(methoxycarbonyl)benzyl]phenyl β-D-glucopyranoside (0.050 g) in methanol (1 mL) was added 2 mol/L aqueous sodium hydroxide solution (0.26 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was purified by column chromatography on (benzenesulfonylpropyl) silica gel (eluent: methanol) to give 2-(4-carboxybenzyl)phenyl β-D-glucopyranoside (0.038 g).

reactant | 2-[4-(methoxycarbonyl)benzyl]phenyl β-D-glucopyranoside | 0.050 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)C(=O)OC | C21H24O8
reactant | sodium hydroxide | 2 mol/L, 0.26 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 2-(4-carboxybenzyl)phenyl β-D-glucopyranoside | 0.038 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)C(=O)O | C20H22O8
